US06562807B2
Step (E): 3-Amino-2(R)-methoxypropionic Acid Methyl Ester Hydrochloride
3-tert-Butoxycarbonylamino-2-methoxypropionic acid methyl ester (500 mg, 2 mmol) was dissolved in 10% TFA in DCM (20 mL), and the reaction mixture was stirred at 30 min at ambient temperature. Solvent was removed and the residue co-evaporated twice from 30 mL of 1 N hydrochloric acid in ether. Yield: 320 mg (88%).

reactant | 3-tert-Butoxycarbonylamino-2-methoxypropionic acid methyl ester | 2 mmol, 500 mg | COC(C(CNC(=O)OC(C)(C)C)OC)=O | C10H19NO5
reactant | DCM | 20 mL | C(Cl)Cl | CH2Cl2
solvent | TFA | C(=O)(C(F)(F)F)O | C2HF3O2
product | 3-Amino-2(R)-methoxypropionic Acid Methyl Ester Hydrochloride | Cl.COC([C@@H](CN)OC)=O | InChI=1S/C5H11NO3.ClH/c1-8-4(3-6)5(7)9-2;/h4H,3,6H2,1-2H3;1H/t4-;/m1./s1
